US04550118
A methanol solution (15 ml) containing sodium sulfide. 9 hydrate (3.60 g) was added to 2-nitro-4-thiocyanophenol (1.96 g), which was prepared according to the method described in U.S. Pat. No. 2,562,948 (1951), in dimethyl sulfoxide (10 ml). Then N-(2-bromoethyl)phthalimide (2.54 g) was added, and the mixture was agitated for 3 hrs at room temperature, and was poured into ice water. The pH of the solution was adjusted to 5 with diluted hydrochloric acid, and the precipitate was collected to obtain N-[2-(4-hydroxy-3-nitrophenylthio)ethyl]phthalimide (2.3 g). The compound (3.5 g) was subjected to reduction under increased pressure at 70 atm in the presence of a 5% palladium carbon catalyst, and was subsequently caused to react with cyanogen bromide to yield 2-amino-5-[2-<2-(1,3-(2H)-dioxo-1H-isoindolyl)>ethylthio]benzoxazole (2 g). The benzoxazole derivative (2 g) was heated with hydrazine hydrate to yield 2-amino-5-(2-aminoethylthio)benzoxazole (1.1 g).

reactant | sodium sulfide | [S-2].[Na+].[Na+]
reactant | 2-nitro-4-thiocyanophenol | 1.96 g | [N+](=O)([O-])C1=C(C=CC(=C1)SC#N)O | C7H4N2O3S
reactant | N-(2-bromoethyl)phthalimide | 2.54 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | methanol | 15 ml | CO | CH4O
product | N-[2-(4-hydroxy-3-nitrophenylthio)ethyl]phthalimide | 2.3 g | OC1=C(C=C(C=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O)[N+](=O)[O-] | C16H12N2O5S
